US06608070B1
To a solution of 3-[4-chloro-2-(toluene-4-sulfonylamino)-phenyl]-acrylic acid ethyl ester (3.00 g, 7.90 mmol) in N,N-dimethylacetamide (15.0 ml) was added potassium carbonate (2.18 g, 15.8 mmol) and 2-bromo-4′-chloroacetophenone (2.03 g, 8.69 mmol). The reaction was stirred 30 minutes and 1,8-diazabicyclo[5.4.0]undec-7-ene (3.54 ml, 23.7 mmol) was added. The reaction mixture was stirred one hour, poured into 1N hydrochloric acid (30 ml) and extracted with methyl t-butyl ether (2×30 ml). The organic extracts were dried with magnesium sulfate, filtered, and concentrated to provide a solid which was slurried in a mixture of methyl t-butyl ether and hexanes to afford [6-chloro-2-(4-chloro-benzoyl)-1H-indol-3-yl]-acetic acid ethyl ester (2.42 g, 81%). mp=186-188° C. 1H NMR (300 MHz, CDCl3) d 1.27 (t, 2, J=7.1), 3.80 (s, 2), 4.11 (q, 2, J=7.1), 7.15 (ddd, 1, J=8.5, 1.7, 0.5), 7.28-7.30 (m, 1), 7.48 (d, J=8.3), 7.54-7.57 (m, 1), 7.77 (d, 2, J=8.3), 9.16 (bs, 1). 13C NMR (75 MHz, CDCl3) d 15.42, 32.29, 62.45, 113.27, 117.60, 122.99, 123.23, 127.85, 130.12, 131.77, 133.61, 137.86, 138.13, 140.10, 172.45, 188.25. IR 3305, 1732, 1618, 1323 cm−1. Analysis calculated for C19H15Cl2NO3: C, 60.65; H, 4.02; N, 3.72. Found: C, 60.70; H, 3.97; N, 3.71.

reactant | 3-[4-chloro-2-(toluene-4-sulfonylamino)-phenyl]-acrylic acid ethyl ester | 7.90 mmol, 3.00 g | C(C)OC(C=CC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C18H18ClNO4S
reactant | potassium carbonate | 15.8 mmol, 2.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4′-chloroacetophenone | 8.69 mmol, 2.03 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 23.7 mmol, 3.54 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | N,N-dimethylacetamide | 15.0 ml | CN(C(C)=O)C | C4H9NO
solvent | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
product | [6-chloro-2-(4-chloro-benzoyl)-1H-indol-3-yl]-acetic acid ethyl ester | 2.42 g, 81% | C(C)OC(CC1=C(NC2=CC(=CC=C12)Cl)C(C1=CC=C(C=C1)Cl)=O)=O | C19H15Cl2NO3
